US08669271B2
4-(5-Chloro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
Copper (I) iodide (25 mg) and bis-(triphenylphosphin)-palladium(II)-chloride (30 mg) are added to 6-chloro-4-iodo-pyridin-3-ol (200 mg) in N,N-dimethylformamide (3 mL) under an argon atmosphere. Triethylamine (110 μL) is added and the resulting mixture is stirred at room temperature for 1 h. A solution of 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (175 mg) in N,N-dimethylformamide (2 mL) is added dropwise and the reaction mixture is stirred at 55° C. for 3 h. The solvent is evaporated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 70:30) to give the title compound. LC (method 2): tR=1.40 min; Mass spectrum (ESI+): m/z=337 [M+H]+.

reactant | 6-chloro-4-iodo-pyridin-3-ol | 200 mg | ClC1=CC(=C(C=N1)O)I | C5H3ClINO
reactant | Triethylamine | 110 μL | C(C)N(CC)CC | C6H15N
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 175 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | Copper (I) iodide | 25 mg | [Cu]I
catalyst | bis-(triphenylphosphin)-palladium(II)-chloride | 30 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(5-Chloro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=2C(=CN=C(C2)Cl)O1 | C17H21ClN2O3
